US05571773
Preparation of diethyl 4-oxo-4H-pyrano[2,3-b]pyridine-6,7-dicarboxylate
Diethyl 5-[3-(dimethylamino)acryloyl]-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate (6 g, 0.0178 mol), and p-toluenesulfonic acid (4.5 g, 0.021 mol) in acetic acid (60 mL) are heated at reflux for three hours. The mixture is then evaporated to dryness, neutralized with a saturated NaHCO3 solution and extracted with methylene chloride. The organic solution is dried over Na2SO4, and concentrated to a thick oil, which solidifies after trituration with hexane-ether (4 g, 77%). The product is recrystallized from isopropanol to give a melting point 71°-72° C.

reactant | Diethyl 5-[3-(dimethylamino)acryloyl]-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | 0.0178 mol, 6 g | CN(C=CC(=O)C1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC)C | C16H20N2O6
reactant | p-toluenesulfonic acid | 0.021 mol, 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | diethyl 4-oxo-4H-pyrano[2,3-b]pyridine-6,7-dicarboxylate | O=C1C=COC2=NC(=C(C=C21)C(=O)OCC)C(=O)OCC | C14H13NO6
